US04477553
(5-Methylresorcinol-benzaldehyde resin)
To a solution of 621 g. of 5-methylresorcinol in 1 l. of dioxane were added 530 g. of benzaldehyde and 30 g. of phosphorus oxychloride as a catalyst. The resulting mixture was reacted at room temperature for 24 hours and then poured into 5 l. of a cold water. There was obtained a pale brown powdery resin.

reactant | 5-methylresorcinol | CC=1C=C(C=C(O)C1)O | C7H8O2
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
catalyst | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
product | 5-Methylresorcinol-benzaldehyde | CC=1C=C(C(=C(O)C1)C1=CC=CC=C1C=O)O | C14H12O3
